US07067665B2
(1-Cyano-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester
Piperidin-4-ylmethyl-carbamic acid tert-butyl ester (4 g, 18.66 mmol) was suspended in 120 ml of acetonitrile. Dried potassium carbonate (2.837 g, 20.53 mmol) was added. A solution of bromoacetonitrile in (3.72 ml, 5 mmolar solution, 18.66 mmol) was added (argon atmosphere) and the mixture was stirred for 3 hours. After addition of aqueous FeSO4 solution and ethyl acetate, the separated solid was filtered and the organic layer separated, dried and evaporated.

reactant | Piperidin-4-ylmethyl-carbamic acid tert-butyl ester | 18.66 mmol, 4 g | C(C)(C)(C)OC(NCC1CCNCC1)=O | C11H22N2O2
reactant | potassium carbonate | 20.53 mmol, 2.837 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | (1-Cyano-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1CCN(CC1)C#N)=O | C12H21N3O2
